US09388189B2
(S)-2-(1-Aminoethyl)-5-((3-methoxyphenyl)thio)-3-phenyl pyrrol o[2,1-f][1,2,4]triazin-4(3H)-one
(S)-tert-Butyl (1-(5-((3-methoxyphenyl)thio)-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)carbamate (154 mg, 0.31 mmol) was treated with trifluoroacetic acid (240 μl, 3.12 mmol) according to the method of Preparation 6 to obtain 103 mg (78% yield) of the title compound as an oil. Purity 92%.

reactant | (S)-tert-Butyl (1-(5-((3-methoxyphenyl)thio)-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)carbamate | 0.31 mmol, 154 mg | COC=1C=C(C=CC1)SC=1C=CN2N=C(N(C(C21)=O)C2=CC=CC=C2)[C@H](C)NC(OC(C)(C)C)=O | C26H28N4O4S
reactant | trifluoroacetic acid | 3.12 mmol, 240 μl | FC(C(=O)O)(F)F | C2HF3O2
product | (S)-2-(1-Aminoethyl)-5-((3-methoxyphenyl)thio)-3-phenyl pyrrol o[2,1-f][1,2,4]triazin-4(3H)-one | 103 mg, 78% yield | N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)SC2=CC(=CC=C2)OC | C21H20N4O2S
